US08217044B2
To a solution of 4-fluoro-2-methoxy-1-nitrobenzene (Combi-blocks, 3.4 g, 19.9 mmol) in DMSO (40 mL) was added an aqueous solution (1 N) of NaOH (40 mL, 40 mmol). The reaction mixture was heated at 80° C. for 20 h. The mixture was cooled to room temperature, and the “pH” of the solution was adjusted to 5 by aqueous HCl solution. The mixture was extracted with ethyl acetate three times. The combined organic extract was washed with water, brine, dried over MgSO4, and concentrated to give 3-methoxy-4-nitrophenol as a light yellow solid (3.2 g, 95%).

reactant | 4-fluoro-2-methoxy-1-nitrobenzene | 19.9 mmol, 3.4 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | NaOH | 40 mmol, 1 N, 40 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 3-methoxy-4-nitrophenol | 3.2 g, 95% | COC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO4
